US06809199B2
Step B: 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(4-isopropylpiperazin-1-yl)acetyl]-3,4-dihydroquinazolin-2(1H)-one
5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(4-isopropylpiperazin-1-yl)acetyl]-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one (36 mg, 0.052 mmol) was dissolved in trifluoroacetic acid (0.8 mL), and this mixture was heated at 70° C. for 30 min. After cooling it down, trifluoroacetic acid was removed by co-evaporation with toluene to give crude product. This was purified by preparative thin layer chromatography using 5% 2M NH3 in MeOH/CH2Cl2 as an eluent to give the title compound. 1H NMR (CDCl3, 500 MHz): δ 7.54-7.29 (m, 8H); 6.94 (s, 1H); 5.44 (s, 1H); 4.47 (d, J=15.6 Hz, 1H); 4.29 (d, J=15.6 Hz, 1H); 3.54 (Abq, J=4.1, 14.9 Hz, 2H); 2.62 (m, 1H); 2.48 (brs, 8H); 1.03 (2 s, 6H). Mass spectrum (ESI): 571.2 (M+1).

reactant | 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(4-isopropylpiperazin-1-yl)acetyl]-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one | 0.052 mmol, 36 mg | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)C(CN1CCN(CC1)C(C)C)=O)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C37H37Cl3N4O3
solvent | trifluoroacetic acid | 0.8 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-7-[(4-isopropylpiperazin-1-yl)acetyl]-3,4-dihydroquinazolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)C(CN1CCN(CC1)C(C)C)=O)C1=C(C=CC=C1Cl)Cl)=O | C29H29Cl3N4O2
